US07569337B2
890 mg (5 mmol) 3-Piperazin-1-yl-phenol are suspended in 100 mL EtOH and treated with 0.42 mL (1 eq.) 12N HCl at a temperature below 10° C. The suspension is stirred an hour and slowly evaporated. The remaining beige powder is dried under high vacuum, then taken up in 60 mL DMF. The solution is cooled to 5° C. under argon, 0.503 mL (1.1 eq.) POCl3 added dropwise and the reaction mixture stirred for an hour at room temperature, then 30 minutes at 80° C., and finally allowed to cool to room temperature, upon which 2 g (3 eq.) solid potassium carbonate is added. The suspension is stirred 30 minutes at room temperature then evaporated, and the residue resuspended and stirred in a 1:1 mixture of dichloromethane and isopropanol. The suspension is filtered, the filtrate evaporated and dried to yield 600 mg crude 2-hydroxy4-piperazin-1-yl-benzaldehyde. This material is taken up in 40 mL of a 1:1 mixture of benzene and acetonitrile, 2.5 mL (5 eq.) piperidine and 683 mg (0.66 eq.) benzothiazol-2-yl-acetic acid methyl ester are added under argon and the reaction mixture refluxed for an hour. The product is extracted with dichloromethane and brine at 0° C., the combined organic phases dried with sodium sulphate, filtered and evaporated, then triturated with diisopropylether to yield 800 mg desired product (crude).

reactant | 3-Piperazin-1-yl-phenol | 5 mmol, 890 mg | N1(CCNCC1)C=1C=C(C=CC1)O | C10H14N2O
reactant | HCl | 12N, 0.42 mL, 1 eq. | Cl | ClH
reactant | POCl3 | 0.503 mL, 1.1 eq. | O=P(Cl)(Cl)Cl | Cl3OP
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | EtOH | 100 mL | CCO | C2H6O
product | 2-hydroxy4-piperazin-1-yl-benzaldehyde | 600 mg | OC1=C(C=O)C=CC(=C1)N1CCNCC1 | C11H14N2O2
